US04642308
The procedure is similar to that described in Example 1, but starting with nicotinic acid (3.7 g), N,N'-carbonyldiimidazole (4.9 g) and 2-amino-7-chloro-1,8-naphthyridine (3.6 g). The product precipitated in the mixture is separated by filtration, washed with tetrahydrofuran (3×20 cc) and water (3×50 cc), and is then dried at 50° C. under reduced pressure (0.067 kPa). The product produced (4.75 g; m.p. 200° C.) is dissolved in boiling acetonitrile (435 cc). After 2 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with acetonitrile (3×20 cc) and dried at 50° C. under reduced pressure (0.067 kPa). N-(7-chloro-1,8-naphthyridin-2-yl)-3-pyridylcarboxamide (3.9 g) is produced, m.p. 200° C.

reactant | nicotinic acid | 3.7 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | 2-amino-7-chloro-1,8-naphthyridine | 3.6 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
solvent | acetonitrile | 435 cc | C(C)#N | C2H3N
product | N-(7-chloro-1,8-naphthyridin-2-yl)-3-pyridylcarboxamide | 3.9 g | ClC1=CC=C2C=CC(=NC2=N1)NC(=O)C=1C=NC=CC1 | C14H9ClN4O
